US06455725B1
Methyl 4-Chloro-2-(3-hydroxy-3-oxo-1-propenyl)-benzoate
At 2° C., a solution of 5.96 g of sodium nitrite in 11.3 ml of water is added to a mixture of 14 g of methyl 2-amino-4-chlorobenzoate, 59 ml of water and 14.3 ml of concentrated sulfuric acid. The reaction mixture is subsequently stirred for 20 minutes and then added a little at a time to 6.9 g of acrylic acid, 57 mg of palladium acetylacetonate being added after the first portion. After 4 hours at 40° C., the precipitated solid is filtered off, giving, after washing and drying, 18.5 g of methyl 4-chloro-2-(3-hydroxy-3-oxo-1-propenyl)-benzoate.

reactant | sodium nitrite | 5.96 g | N(=O)[O-].[Na+]
reactant | methyl 2-amino-4-chlorobenzoate | 14 g | NC1=C(C(=O)OC)C=CC(=C1)Cl | C8H8ClNO2
reactant | sulfuric acid | 14.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | acrylic acid | 6.9 g | C(C=C)(=O)O | C3H4O2
solvent | water | 11.3 ml | O | H2O
catalyst | palladium acetylacetonate | 57 mg | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Pd+2]
solvent | water | 59 ml | O | H2O
product | Methyl 4-Chloro-2-(3-hydroxy-3-oxo-1-propenyl)-benzoate | ClC1=CC(=C(C(=O)OC)C=C1)C=CC(=O)O | C11H9ClO4
